US07256198B2
Step 2: 3,3-Dimethyl-10-oxo-2,3,4,10-tetrahydropyrimido[1,2-a]indole-8-carbonitrile
At room temperature a solution containing 3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole]-8′-carbonitrile in methanesulfonic acid was stirred for 1.5 h. The reaction was poured carefully onto crushed ice (100 mL), basified with concentrated NH4OH and extracted with CH2Cl2. The combined organic extracts were washed with H2O (1×), dried (Na2SO4) and purified on Biotage KP-Sil eluting with 40% acetone/hexane to give 0.119 g (94%) of the title compound as a yellow solid. Anal. Calc'd. for C14H13N3O 0.2H2O: C; 69.23; H, 5.56; N, 17.30. Found: C, 69.59; H, 5.44; N, 17.05. NMR (400 Mz, DMSO-d6): consistent. MS: (ES+) m/z 240 [M+H, 100]. m.p.: 178-184° C.

reactant | 3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole]-8′-carbonitrile | CC1(CN=C2N(C=3C=CC(=CC3C23OCCCO3)C#N)C1)C | C17H19N3O2
reactant | NH4OH | [NH4+].[OH-]
solvent | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | 3,3-Dimethyl-10-oxo-2,3,4,10-tetrahydropyrimido[1,2-a]indole-8-carbonitrile | 0.119 g, 94% | CC1(CN=C2N(C=3C=CC(=CC3C2=O)C#N)C1)C | C14H13N3O
